US08022206B2
4-(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-6-ylamine (601 mg, 1.43 mmol), 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (810 mg, 2.1 mmol) and potassium carbonate (590 mg, 4.3 mmol) in 1,4-dioxane (10 mL) and H2O (3 mL) was degassed and refilled with argon (3×) prior to the addition of PdCl2(dppf) (105 mg, 0.143 mmol). The reaction mixture was degassed and refilled with argon (2×) and heated at 100° C. for 2 h (conventional heating). The mixture was diluted with EtOAc (60 mL), then washed with brine (20 mL), and dried over anhydrous sodium sulfate. The residue was purified by silica gel chromatography (Hex:EtOAc=50:50→20:80→100% EtOAc) to give the title compound as a light-yellow solid. LC-MS (ES+): 590.07/592.09 [MH+]. 1H NMR (CDCl3, 400 MHz): δ 1.49 (s, 9H), 1.90 (d, J=6.8 Hz, 3H), 1.91-2.02 (m, 2H), 2.17-2.20 (m, 2H), 2.93 (m, 2H), 4.27-4.36 (m, 3H), 5.24 (br s, 2H), 6.62 (q, J=6.8 Hz, 1H), 7.07 (dd, J=8.8, 7.8 Hz, 1H), 7.30 (dd, J=8.8, 4.8 Hz, 1H), 7.55 (s, 1H), 7.68 (s, 1H), 7.75 (s, 1H), 8.11 (s, 1H).

reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-6-ylamine | 1.43 mmol, 601 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 2.1 mmol, 810 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C19H32BN3O4
reactant | potassium carbonate | 4.3 mmol, 590 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
catalyst | PdCl2(dppf) | 0.143 mmol, 105 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C28H30Cl2FN5O4
